US04342765
To a solution of 1-[3-(2-guanidinothiazol-4-yl)-cyclohexylamino]-2-methoxycyclobutene-3,4-dione (0.35 g.) in 60 ml. of methanol/chloroform (50:50 v/v) was added 1,4-diaminobutane (0.044 g.) in methanol (1 ml.). The solution was heated under reflux for 16 hours during which time a precipitate formed. The reaction mixture was cooled and the solid precipitate collected and washed with methanol (1 ml.) and ether (2 ml.) to give, as an off-white powder, 1,4-bis{1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-3,4-dioxocyclobutenylamino}butane. The carbon-13 magnetic resonance spectrum (δ relative to tetramethylsilane) in d6 -DMSO included one carbon singlets at 182.3, 174.8, 167.7, 167.0, 156.7, 155.3, 100.3 and 52.4 together with a series of singlets from 42.9 to 24.0 p.p.m. (the latter group of signals includes the resonances due to the solvent).

reactant | 1-[3-(2-guanidinothiazol-4-yl)-cyclohexylamino]-2-methoxycyclobutene-3,4-dione | 0.35 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC1=C(C(C1=O)=O)OC | C15H19N5O3S
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
reactant | 1,4-diaminobutane | 0.044 g | NCCCCN | C4H12N2
solvent | methanol | 1 ml | CO | CH4O
product | 1,4-bis{1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-3,4-dioxocyclobutenylamino}butane | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC1=C(C(C1=O)=O)NCCCCNC1=C(C(C1=O)=O)NC1CC(CCC1)C=1N=C(SC1)NC(=N)N | C32H42N12O4S2
